US07858646B2
Synthesis of 6-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile.
Mix 6-(3-hydroxymethyl-phenoxy)-nicotinonitrile (1.63 g, 7.18 mmol) and 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (1.33 g, 6.84 mmol) in 2:1 toluene/dichloromethane (24 mL). Cool to −20° C. and add tributylphosphine (2.6 mL, 10.26 mmol) dropwise. After stirring for 5 minutes, add 1,1′-(azodicarbonyl)dipiperidine in three batches. Allow the reaction mixture to warm to ambient temperature overnight. Concentrate under reduced pressure to give a yellow solid. Dilute with diethyl ether (50 mL) and cool to 0° C. Filter the white precipitate and concentrate the filtrate under reduced pressure to give a residue. Purification by flash chromatography, using 5% ethyl acetate/hexanes to 30% ethyl acetate/hexanes as a gradient eluent yields the title compound (0.91 g, 33%): MS (m/z): 401.2 (M−1). 1H NMR (CDCl3) 12.78 (s, 1H), 8.50 (s, 1H), 7.97 (dd, J=2.2 Hz, 8.8 Hz, 1H), 7.62 (d, J=8.8 Hz, 1H), 7.51 (t, J=8.0 Hz, 1H), 7.36 (d, J=7.8 Hz, 1H), 7.25 (s, 1H), 7.16 (d, J=8.0 Hz, 1H), 7.09 (d, J=8.8 Hz, 1H), 6.51 (d, J=8.8 Hz, 1H), 5.22 (s, 2H), 2.72 (t, J=7.6 Hz, 2H), 2.60 (s, 3H), 1.62-1.53 (m, 2H), 0.94 (t, J=7.6 Hz, 3H).

reactant | 6-(3-hydroxymethyl-phenoxy)-nicotinonitrile | 7.18 mmol, 1.63 g | OCC=1C=C(OC2=NC=C(C#N)C=C2)C=CC1 | C13H10N2O2
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 6.84 mmol, 1.33 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | tributylphosphine | 10.26 mmol, 2.6 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | toluene dichloromethane | 24 mL | C1(=CC=CC=C1)C.ClCCl
product | 6-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenoxy]-nicotinonitrile | 0.91 g, 33% | C(C)(=O)C1=C(C(=C(OCC=2C=C(OC3=NC=C(C#N)C=C3)C=CC2)C=C1)CCC)O | C24H22N2O4
